US06864265B2
4-Trifluoromethyl-1-(2-trimethylsilanyl-ethoxymethyl)-1H-imidazole-2-carbaldehyde
Reaction of 4-trifluoromethyl-1-(2-trimethylsilanyl-ethoxymethyl)-1H-imidazole (590 mg, 2.2 mmol), 2.3 M n-BuLi (1.3 mL, 3.0 mmol), and DMF (0.51 mL, 6.6 mmol) followed by purification of the crude material on silica gel (10% EtOAc/hexanes) gave the title compound as a yellow oil (92 mg, 14% over two steps). 1H NMR (CDCl3) □0.02 (s, 9H), 0.95 (m, 2H), 3.60 (m, 2H), 5.79 (s, 2H), 7.28 (s, 1H), 7.67 (s, 1H), 9.86 (s, 1H).

reactant | 4-trifluoromethyl-1-(2-trimethylsilanyl-ethoxymethyl)-1H-imidazole | 2.2 mmol, 590 mg | FC(C=1N=CN(C1)COCC[Si](C)(C)C)(F)F | C10H17F3N2OSi
reactant | n-BuLi | 3.0 mmol, 2.3 M, 1.3 mL | [Li]CCCC
reactant | DMF | 6.6 mmol, 0.51 mL | CN(C)C=O | C3H7NO
product | 4-Trifluoromethyl-1-(2-trimethylsilanyl-ethoxymethyl)-1H-imidazole-2-carbaldehyde | 92 mg, 14% | FC(C=1N=C(N(C1)COCC[Si](C)(C)C)C=O)(F)F | C11H17F3N2O2Si
